US06680326B2
The mixture of 4-methoxy-5H-5,8-diaza-benzo[c]fluorene-6,7-dione and 4-methoxy-5H-5,11-diaza-benzo[c]fluorene-6,7-dione (54 mg) obtained above and DMF (0.1 ml) were suspended in phosphorus oxychloride (2 ml) and refluxed for three hours. Excess phosphorus oxychloride was evaporated under reduced pressure. The residue was treated with water and saturated sodium hydrogen carbonate to adjust the pH about 7. Orange ppt was collected with suction and washed water. The ppt was purified by silica gel column chromatography developed by dichloromethane-methanol (200:1) and by dichloromethane-methanol (200:2). This chromatography gave two yellow bands. The first band was collected and evaporated to give the less polar isomer (11.3 mg), 6-chloro-3-methoxy-5,11-diaza-benzo[c]fluoren-7-one (Example 14c-1) as a yellow powder. The second band was collected and evaporated to give the more polar isomer (20.3 mg), 6-chloro-3-methoxy-5,8-diaza-benzo[c]fluoren-7-one (Example 14c-2) as a yellow powder.

reactant | 4-methoxy-5H-5,8-diaza-benzo[c]fluorene-6,7-dione | COC1=CC=CC2=C1NC(C=1C(C=3N=CC=CC3C21)=O)=O | C16H10N2O3
reactant | 4-methoxy-5H-5,11-diaza-benzo[c]fluorene-6,7-dione | 54 mg | COC1=CC=CC2=C1NC(C=1C(C=3C=CC=NC3C21)=O)=O | C16H10N2O3
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-methoxy-5,11-diaza-benzo[c]fluoren-7-one | ClC1=NC2=C(C=3C=4N=CC=CC4C(C13)=O)C=CC(=C2)OC | C16H9ClN2O2
